US06624163B2
4-[(Ethyl-methoxyacetyl-amino)-methyl]-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-benzamide
Using N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4-ethylaminomethyl-benzamide and methoxy-acetyl chloride, the title compound was prepared as white solid (33% yield). MS: m/e=499(M+H+).

reactant | N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4-ethylaminomethyl-benzamide | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC=C(C=C2)CNCC)=O)N2CCOCC2 | C22H26N4O3S
reactant | methoxy-acetyl chloride | COCC(=O)Cl | C3H5ClO2
product | 4-[(Ethyl-methoxyacetyl-amino)-methyl]-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-benzamide | C(C)N(C(COC)=O)CC1=CC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=C1 | C25H30N4O5S
